US09079889B2
Synthesis of 3-amino-N-(4-((1R,3S)-3-aminocyclohexyl)pyridin-3-yl)-6-(2,6-difluorophenyl)-5-fluoropicolinamide
A solution of 3-amino-6-bromo-N-(4-((1R,3S)-3-(1,3-dioxoisoindolin-2-yl)cyclohexyl)pyridin-3-yl)-5-fluoropicolinamide (1.0 equiv), 2,6-difluorophenyl boronic acid (3.0 equiv.), tetrakistriphenylphosphine (0.2 equiv.) and triethylamine (3.0 equiv.) in 1:1 EtOH/toluene (0.1 M) was heated at 120° C. with microwave irradiation for 1200 seconds. Upon cooling, removal of the volatiles in vacuo, the Suzuki product was directly purified by reverse phase HPLC. The product fraction was lyophilized and the resulting phthalimide group was deprotected as described in Method 9 yielding, after RP HPLC purification and lyophilization, 3-amino-N-(4-((1R,3S)-3-aminocyclohexyl)pyridin-3-yl)-6-(2,6-difluorophenyl)-5-fluoropicolinamideas the TFA salt. LCMS (m/z): 442.2 (MH+); LC Rt=2.24 min.

reactant | 3-amino-6-bromo-N-(4-((1R,3S)-3-(1,3-dioxoisoindolin-2-yl)cyclohexyl)pyridin-3-yl)-5-fluoropicolinamide | 1.0 equiv | NC=1C(=NC(=C(C1)F)Br)C(=O)NC=1C=NC=CC1[C@H]1C[C@H](CCC1)N1C(C2=CC=CC=C2C1=O)=O | C25H21BrFN5O3
reactant | 2,6-difluorophenyl boronic acid | 3.0 equiv. | FC1=C(C(=CC=C1)F)B(O)O | C6H5BF2O2
reactant | triethylamine | 3.0 equiv. | C(C)N(CC)CC | C6H15N
solvent | EtOH toluene | 0.1 M | CCO.C1(=CC=CC=C1)C
product | 3-amino-N-(4-((1R,3S)-3-aminocyclohexyl)pyridin-3-yl)-6-(2,6-difluorophenyl)-5-fluoropicolinamide | NC=1C(=NC(=C(C1)F)C1=C(C=CC=C1F)F)C(=O)NC=1C=NC=CC1[C@H]1C[C@H](CCC1)N | C23H22F3N5O
